US06281356B1
3-(6-Bromo-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-morpholin-4-yl-1H-indol-3-yl)pyrrole-2,5-dione (139 mg, 49%) was prepared from methyl (6-bromo-1-methyl-1H-indol-3-yl)glyoxylate (190 mg, 0.64 mmol) and (1-methyl-6-morpholin-4-yl-1H-indol-3-yl)acetamide (150 mg, 0.55 mmol).

reactant | methyl (6-bromo-1-methyl-1H-indol-3-yl)glyoxylate | 0.64 mmol, 190 mg | BrC1=CC=C2C(=CN(C2=C1)C)C(C(=O)OC)=O | C12H10BrNO3
reactant | (1-methyl-6-morpholin-4-yl-1H-indol-3-yl)acetamide | 0.55 mmol, 150 mg | CN1C=C(C2=CC=C(C=C12)N1CCOCC1)CC(=O)N | C15H19N3O2
product | 3-(6-Bromo-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-morpholin-4-yl-1H-indol-3-yl)pyrrole-2,5-dione | 139 mg, 49% | BrC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)N1CCOCC1)C)=O)=O | C26H23BrN4O3
